US08664220B2
Step 2: [1-(4′-{3-Methyl-4-[1-(3-phenyl-isoxazol-5-yl)-ethylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1-(3-phenyl-isoxazol-5-yl)-ethyl]-amine and {1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl}-acetic acid ethyl ester. Additionally, (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) was used as the catalyst in place of tetrakis(triphenylphosphine)palladium(0).

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1-(3-phenyl-isoxazol-5-yl)-ethyl]-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(C)C1=CC(=NO1)C1=CC=CC=C1 | C21H18BrN3O2
reactant | {1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl}-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C19H27BO4
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [1-(4′-{3-Methyl-4-[1-(3-phenyl-isoxazol-5-yl)-ethylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropyl]-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(C)C1=CC(=NO1)C1=CC=CC=C1)=O | C34H33N3O4
